US09023849B2
4-Amino-2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
200 mg (0.70 mmol) of 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide were admixed with 3 ml of tert-butanol, 146 mg (0.70 mmol) of methyl 3,3-dicyano-2,2-dimethylpropanoate dissolved in 1.5 ml of tert-butanol and 94 mg (0.84 mmol) of potassium tert-butoxide, and the mixture was heated under reflux for 48 h. Water was added and the precipitate was filtered off. The filtrate was extracted with dichloromethane, and the organic phase was dried over sodium sulphate and concentrated on a rotary evaporator. The residue was stirred with water/ethanol. The solid was filtered off and dried under high vacuum. 102 mg (34% of theory) of the target compound were obtained.

reactant | 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | 0.70 mmol, 200 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1 | C14H13FN6
reactant | methyl 3,3-dicyano-2,2-dimethylpropanoate | 0.70 mmol, 146 mg | C(#N)C(C(C(=O)OC)(C)C)C#N | C8H10N2O2
reactant | potassium tert-butoxide | 0.84 mmol, 94 mg | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | tert-butanol | 1.5 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 3 ml | C(C)(C)(C)O | C4H10O
product | 4-Amino-2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | NC=1C2=C(N=C(N1)C1=NN(C3=NC(=NC=C31)C)CC3=C(C=CC=C3)F)NC(C2(C)C)=O | C21H19FN8O
